* Schematics Netlist *



R_R3         $N_0002 $N_0001  1k  
R_R2         $N_0001 $N_0003  800  
R_R1         $N_0004 $N_0001  500  
I_I1         $N_0002 $N_0002 DC 50mA  
V_Vs         $N_0004 $N_0002 200V
R_R4         $N_0002 $N_0002  200  
V_Vy         $N_0003 $N_0002 0V
V_Vx         $N_0002 $N_0002 0V
