* Schematics Netlist *



R_R1         $N_0002 $N_0001  500  
V_Vs         $N_0002 0 20V
V_Vx         $N_0003 0 0V
R_R4         $N_0004 0  200  
I_Is         0 $N_0004 DC 50mA  
V_Vy         $N_0005 $N_0004 0V
R_R2         $N_0005 $N_0001  800  
R_R3         $N_0003 $N_0001  1k  
